US09315475B2
To tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate (1.0 equiv) in CH2Cl2 (0.1 M) were added triethylamine (3 eq) and phenylmethanesulfonyl chloride (1.5 eq). The reaction was stirred at room temperature for 18 h and ethyl acetate and saturated sodium bicarbonate were added. Aqueous layer was extracted twice with ethyl acetate and combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified using automated silica-gel flash chromatography using a solvent gradient of 20% to 100% of ethyl acetate and hexanes to afford tert-butyl (2R,5R)-5-(2-{2-[(benzylsulfonyl)amino]phenyl}ethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate which was treated with TFA by following procedure described in step 12 of Example 1 to afford the title compound.

reactant | tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate | 1.0 equiv | NC1=C(C=CC=C1)CC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O | C42H50N4O6
reactant | triethylamine | 3 eq | C(C)N(CC)CC | C6H15N
reactant | phenylmethanesulfonyl chloride | 1.5 eq | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 0.1 M | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (2R,5R)-5-(2-{2-[(benzylsulfonyl)amino]phenyl}ethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | C(C1=CC=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)CC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C49H56N4O8S
